US04863735
Z-Tyr-Tyr-Hex was prepared from Z-Tyr and Tyr-Hex.HCl by the carbodiimide coupling technique. Yield of crude product: 89%.

reactant | Z-Tyr | N([C@@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO5
reactant | L-tyrosine hexyl ester hydrochloride | Cl.C(CCCCC)OC([C@@H](N)CC1=CC=C(C=C1)O)=O
reactant | carbodiimide | N=C=N | CH2N2
product | Z-Tyr-Tyr-Hex | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)CCCCCC)C(=O)OCC1=CC=CC=C1 | C32H38N2O6
